US04275247
To 100 parts of pyrogallol triacetate as prepared above were added glacial acetic acid (364 parts) and 2 N HCl solution (3640 parts) and the mixture refluxed for three hours under a nitrogen blanket. Continuous ether extraction followed by evaporation of the extract gave an oil which slowly crystallised. Recrystallisation from toluene gave pyrogallol (44 parts, 87% yield).

reactant | pyrogallol triacetate | C(C)(=O)OC1=C(OC(C)=O)C(OC(C)=O)=CC=C1 | C12H12O6
reactant | HCl | 2 N | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | pyrogallol | 87% yield | C1(O)=C(O)C(O)=CC=C1 | C6H6O3
